US06930120B2
2-(3-Bromo-phenoxy)-propionic acid ethyl ester
Cesium carbonate (57.8 g, 177.4 mmol) was added to a solution of 3-bromophenol (10.23 g, 59.1 mmol) in anhydrous DMF (500 mL) at room temperature under an atmosphere of nitrogen. After five minutes, ethyl 2-bromopropionate (7.7 mL, 59.1 mmol, d=1.394) was added rapidly dropwise and the resultant mixture was allowed to stir at 90° C. for 18 h. The reaction mixture was diluted with diethyl ether and extracted twice with 1N HCl and three times with water. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (25% ether in hexanes) to provide the titled compound (14.8 g, 97%) as a light yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.13-7.07 (m, 3H), 7.02-7.13 (m, 1H), 6.79 (dt, 1H, J=7.63 Hz, 2.35 Hz), 4.70 (q, 1H, J=6.75 Hz), 4.23 (q, 2H, J=3.52 Hz), 1.60 (d, 3H, J=7.04 Hz), 1.24 (t, 3H, J=7.04 Hz). R=0.36 in 25% ether in hexanes.

reactant | Cesium carbonate | 177.4 mmol, 57.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromophenol | 59.1 mmol, 10.23 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | ethyl 2-bromopropionate | 59.1 mmol, 7.7 mL | BrC(C(=O)OCC)C | C5H9BrO2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3-Bromo-phenoxy)-propionic acid ethyl ester | 14.8 g, 97% | C(C)OC(C(C)OC1=CC(=CC=C1)Br)=O | C11H13BrO3
